US06403601B1
(d) 3,4-Dimethoxy-1-naphthalenecarboxylic acid
A solution of methyl 3,4-dimethoxyl-1-naphthalenecarboxylate (2.93 g, 11.9 mmol), THF (145 mL), water (58 mL), and 1N NaOH (25 mL, 25.0 mmol) was stirred at room temperature overnight. The THF was removed in vacuo and the mixture acidified to pH 1 with 1N HCl. The resulting white precipitate was extracted with EtOAc (2×50 mL), dried (MgSO4) and filtered to give the product as a white solid (2.55 g, 92%). 1H NMR (DMSO) δ 13.19 (s, 1H), 8.89 (d, 1H), 8.13 (d, 1H), 8.08 (s, 1H), 7.54 (m, 2H), 3.97 (s, 3H), 3.98 (s, 3H); MS (APCI) m/z 231 (M−H+).

reactant | methyl 3,4-dimethoxyl-1-naphthalenecarboxylate | 11.9 mmol, 2.93 g | O(C)C=1C=C(C2=CC=CC=C2C1OC)C(=O)OC | C14H14O4
reactant | THF | 145 mL | C1CCOC1 | C4H8O
reactant | NaOH | 25.0 mmol, 1N, 25 mL | [OH-].[Na+]
solvent | water | 58 mL | O | H2O
product | 3,4-Dimethoxy-1-naphthalenecarboxylic acid | 2.55 g, 92% | COC=1C=C(C2=CC=CC=C2C1OC)C(=O)O | C13H12O4
